US08859553B2
Step 1. 6-Bromo-N-cyclobutylpyridazin-3-amine
Into a solution of 3,6-dibromopyridazine (1.19 g, 5 mmol) in dioxane (5 mL) was added cyclobutylamine (0.39 g, 5.5 mmol), and Et3N (0.60 g, 6 mmol). The reaction was microwave at 90° C., 150 W for 0.45 h. The reaction was monitored by TLC and the crude product was purified by silica gel chromatography (eluent: 30% Ethyl acetate in n-hexane), to give the desired product (0.63 g, 55.3%). 1H NMR (300 MHz, CDCl3) δ: 7.25-7.28 (1H, d, J=9.0 Hz), 6.49-6.52 (1H, d, J=9.0 Hz), 5.27 (1H, s), 4.16-4.24 (1H, m), 2.40-4.49 (2H, m), 1.87-1.95 (2H, m), 1.75-1.84 (2H, m).

reactant | 3,6-dibromopyridazine | 5 mmol, 1.19 g | BrC=1N=NC(=CC1)Br | C4H2Br2N2
reactant | cyclobutylamine | 5.5 mmol, 0.39 g | C1(CCC1)N | C4H9N
reactant | Et3N | 6 mmol, 0.60 g | CCN(CC)CC | C6H15N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 6-Bromo-N-cyclobutylpyridazin-3-amine | 0.63 g, 55.3% | BrC1=CC=C(N=N1)NC1CCC1 | C8H10BrN3
